*******************************************************************************
*                                                                             *
*                                                                             *
*                                                                             *
*        #############################################################        *
*        #                                                           #        *
*        #                        MTW20N50E                          #        *
*        #                                                           #        *
*        #                 Motorola TMOS Power FET                   #        *
*        #                        20 AMPERES                         #        *
*        #                       500 VOLTS                           #        *
*        #                     RDS(on) = .25 OHMS                    #        *
*        #                       Package = 340F-03                   #        *
*        #                                                           #        *
*        #               This model was developed by                 #        *
*        #                      Analogy, Inc.                        #        *
*        #                    9205 SW Gemini Dr.                     #        *
*        #                   Beaverton, OR  97005                    #        *
*        #               Copyright 1994 Analogy, Inc.                #        *
*        #                  All Rights Reserved                      #        *
*        #                                                           #        *
*        #    The content of this model is subject to change         #        *
*        #    without notice and may not be modified or altered      #        *
*        #    without permission from Motorola, Inc.  This model     #        *
*        #    has been carefully checked and is believed to be       #        *
*        #    accurate, however neither Analogy nor Motorola         #        *
*        #    assume liability for the use of this model or the      #        *
*        #    results obtained from using it.                        #        *
*        #                                                           #        *
*        #    For more information regarding modeling services,      #        *
*        #    model libraries or simulation products, please         #        *
*        #    contact Analogy, Inc. (503) 626-9700.                  #        *
*        #                                                           #        *
*        #############################################################        *
*                                                                             * 
*                                                                             *
*                                                                             * 
******************************************************************************* 
* There are four simulation models provided on this disk for the MTW20N50E 
* power mosfet.  Three of the models are for use with SPICE based simulators 
* and the fourth model is for use with the SABER(TM) simulator from Analogy.
*
* The three SPICE models have identical parameter values and model structure 
* however the syntax is slightly modified in each model to support a variety 
* of SPICE simulators. The SPICE model is based on the available elements 
* in SPICE based electrical simulators and may have limited accuracy and 
* convergence capabilities due to fundamental limitations in SPICE based 
* simulators. Specifically, this model DOES NOT produce an accurate prediction 
* of some non-linear capacitance effects, non-linear leakage characteristics, 
* soft-knee breakdown, weak inversion characteristics, body diode forward and 
* reverse recovery  mechanisms, and maximum device ratings.
*
* The SABER model is a more accurate model that includes all non-linear 
* capacitances, non-linear leakage characteristics, soft-knee breakdown, weak 
* inversion characteristics, body diode forward and reverse recovery mechanisms, 
* and maximum stress ratings. The model is available for use with the SABER(tm) 
* simulator from Analogy and is written in MAST(tm), an Analog Hardware 
* Description Language (AHDL). The SABER model is well suited for power circuit 
* simulation. 
********************************************************************************
*
********************************************************************************
*
* The model for this device is a subcircuit and can be used in the one of the
* following formats in any spice compatible simulator.
*
* This model file contains 3 subcircuits with correct syntax for SPICE2G.6, 
* SPICE3C/D.X, HSPICE(tm) and PSPICE(tm). The user must call the proper subcircuit
* in their netlist depending on the simulator they are using, e.g.:
*
* X<name> Nodes<N1, N2, N3> Model_Name
*
* where X<name> is the circuit specific name, Nodes<N1, N2, N3> are the
* connection points for the device and Model_Name is the name of the model
* provided in this model file.
*
* There are 3 nodes for this device.
* The first is the Drain, the second is the Gate, and the third is the Source.
* The Model_Name is: MTW20N50EG for Berkley 2G.6 and compatible simulators.
*                    MTW20N50ED for Berkley 3C.X, 3D.X and HSPICE(tm) simulators.
*                    MTW20N50EP for Microsim PSPICE(tm) simulator. 
* Example: X1 1 2 3 MTW20N50EX
* 
******* BERKLEY 2G.6 AND COMPATIBLE SIMULATORS *****************************
**************************  INSTANTIATION   **********************************
.subckt MTW20N50EG  10 20 30 
*
* 10 = Drain 20 = Gate 30 = Source
*
******************************************************************************
*
*------------------------ EXTERNAL PARASITICS --------------------------------
* PACKAGE INDUCTANCE
*
LDRAIN  10  11  4.5e-09
LGATE   20  21  1.3e-08
LSOURCE 30  31  1.3e-08
*
* RESISTANCES
* 
RDRAIN1    4  11 0.2456 TC=0.009412,0
RDRAIN2    4   5 0.001 TC=0.009412,0 
RSOURCE   31   6 0.01001 TC=-0.00218,1.717e-05
RDBODY     8  30 0.008396  TC=0.00342,-2.02e-07
*
RGATE      21   2 1
*
*--------------------------------------------------------------------------
*
*--------------- CAPACITANCES AND BODY DIODE ------------------------------
*
DBODY       8  11 DBODY
DGD         3  11 DGD
CGDMAX      2   3 5.5e-09
RGDMAX      2   3 1e+08
CGS         2   6 3.619e-09 
*
*--------------------------------------------------------------------------
*
*----------------------- CORE MOSFET --------------------------------------
*
M1       5  2  6  6  MAIN
*
*--------------------------------------------------------------------------
*
.MODEL MAIN NMOS  ( 
+LEVEL   = 3
+VTO     = 3.788
+KP      = 30.42
+GAMMA   = 2.5
+PHI     = 0.6
+LAMBDA  = 0.0001178
+RD      = 0
+RS      = 0
+CBD     = 0
+CBS     = 0
+IS      = 1e-14
+PB      = 0.8
+CGSO    = 0
+CGDO    = 0
+CGBO    = 0
+RSH     = 0
+CJ      = 0
+MJ      = 0.5
+CJSW    = 0
+MJSW    = 0.33
+JS      = 1e-14
+TOX     = 1e-07
+NSUB    = 5e+17
+NSS     = 0
+NFS     = 6.121e+11
+TPG     = 1
+XJ      = 0
+LD      = 0
+UO      = 600
+UCRIT   = 10000
+UEXP    = 0
+UTRA    = 0
+VMAX    = 1e+06
+NEFF    = 1
+KF      = 0
+AF      = 1
+FC      = 0.5
+DELTA   = 0
+THETA   = 0
+ETA     = 0
+KAPPA   = 0.2)
*
*--------------------------------------------------------------------------
*
.MODEL DGD D  ( 
+IS      = 1e-15
+RS      = 0
+N       = 1000
+TT      = 0
+CJO     = 4.738e-09
+VJ      = 0.5172
+M       = 1.12
+EG      = 1.11
+XTI     = 3
+KF      = 0
+AF      = 1
+FC      = 0.5
+BV      = 10000
+IBV     = 0.001)
*
*--------------------------------------------------------------------------
*
.MODEL DBODY D  ( 
+IS      = 3.348e-11
+RS      = 0
+N       = 1.059
+TT      = 5.5e-07
+CJO     = 2.711e-09
+VJ      = 1.039
+M       = 0.6409
+EG      = 1.11
+XTI     = 2.479
+KF      = 0
+AF      = 0
+FC      = 0
+BV      = 580
+IBV     = 0.00025)
.ENDS
***** BERKLEY 3C.X, 3D.X AND HSPICE(tm) SIMULATORS ***************************
**************************  INSTANTIATION   **********************************
.subckt MTW20N50EC 10 20 30 
*
* 10 = Drain 20 = Gate 30 = Source
*
******************************************************************************
*
*------------------------ EXTERNAL PARASITICS --------------------------------
* PACKAGE INDUCTANCE
*
LDRAIN  10  11  4.5e-09
LGATE   20  21  1.3e-08
LSOURCE 30  31  1.3e-08
*
* RESISTANCES
*
RDRAIN1    4  11 0.2456 RDRAIN
RDRAIN2    4   5 0.001 RDRAIN
RSOURCE   31   6 0.01001 RSOURCE 
RDBODY     8  30 0.008396  RDBODY
*
RGATE      21   2 1
*
*--------------------------------------------------------------------------
*
*--------------- CAPACITANCES AND BODY DIODE ------------------------------
*
DBODY       8  11 DBODY
DGD         3  11 DGD
CGDMAX      2   3 5.5e-09
RGDMAX      2   3 1e+08
CGS         2   6 3.619e-09 
*
*--------------------------------------------------------------------------
*
*----------------------- CORE MOSFET --------------------------------------
*
M1       5  2  6  6  MAIN
*
*--------------------------------------------------------------------------
*
*.MODEL RDRAIN  R  (
*+TC1     = 0.009412
*+TC2     = 0)
*
*.MODEL RSOURCE  R  (
*+TC1     = -0.00218
*+TC2     = 1.717e-05)
*
*.MODEL RDBODY  R  (
*+TC1     = 0.00342
*+TC2     = -2.02e-07)
*
*
.MODEL MAIN NMOS  ( 
+LEVEL   = 3
+VTO     = 3.788
+KP      = 30.42
+GAMMA   = 2.5
+PHI     = 0.6
+LAMBDA  = 0.0001178
+RD      = 0
+RS      = 0
+CBD     = 0
+CBS     = 0
+IS      = 1e-14
+PB      = 0.8
+CGSO    = 0
+CGDO    = 0
+CGBO    = 0
+RSH     = 0
+CJ      = 0
+MJ      = 0.5
+CJSW    = 0
+MJSW    = 0.33
+JS      = 1e-14
+TOX     = 1e-07
+NSUB    = 5e+17
+NSS     = 0
+NFS     = 6.121e+11
+TPG     = 1
+XJ      = 0
+LD      = 0
+UO      = 600
+UCRIT   = 10000
+UEXP    = 0
+UTRA    = 0
+VMAX    = 1e+06
+NEFF    = 1
+KF      = 0
+AF      = 1
+FC      = 0.5
+DELTA   = 0
+THETA   = 0
+ETA     = 0
+KAPPA   = 0.2)
*
*--------------------------------------------------------------------------
*
.MODEL DGD D  ( 
+IS      = 1e-15
+RS      = 0
+N       = 1000
+TT      = 0
+CJO     = 4.738e-09
+VJ      = 0.5172
+M       = 1.12
+EG      = 1.11
+XTI     = 3
+KF      = 0
+AF      = 1
+FC      = 0.5
+BV      = 10000
+IBV     = 0.001)
*
*--------------------------------------------------------------------------
*
.MODEL DBODY D  ( 
+IS      = 3.348e-11
+RS      = 0
+N       = 1.059
+TT      = 5.5e-07
+CJO     = 2.711e-09
+VJ      = 1.039
+M       = 0.6409
+EG      = 1.11
+XTI     = 2.479
+KF      = 0
+AF      = 0
+FC      = 0
+BV      = 580
+IBV     = 0.00025)
.ENDS
***** MICROSIM PSPICE(tm) SIMULATORS *****************************************
**************************  INSTANTIATION   **********************************
.subckt MTW20N50EP 10 20 30 
*
* 10 = Drain 20 = Gate 30 = Source
*
******************************************************************************
*
*------------------------ EXTERNAL PARASITICS --------------------------------
* PACKAGE INDUCTANCE
*
LDRAIN  10  11  4.5e-09
LGATE   20  21  1.3e-08
LSOURCE 30  31  1.3e-08
*
* RESISTANCES
*
RDRAIN1    4  11 RDRAIN 0.2456
RDRAIN2    4   5 RDRAIN 0.001
RSOURCE   31   6 RSOURCE 0.01001  
RDBODY     8  30 RDBODY  0.008396
*
RGATE      21   2 1
*
*--------------------------------------------------------------------------
*
*--------------- CAPACITANCES AND BODY DIODE ------------------------------
*
DBODY       8  11 DBODY
DGD         3  11 DGD
CGDMAX      2   3 5.5e-09
RGDMAX      2   3 1e+08
CGS         2   6 3.619e-09 
*
*--------------------------------------------------------------------------
*
*----------------------- CORE MOSFET --------------------------------------
*
M1       5  2  6  6  MAIN
*
*--------------------------------------------------------------------------
*
.MODEL RDRAIN RES  (
+TC1    = 0.009412
+TC2    = 0)
*
.MODEL RSOURCE RES  (
+TC1    = -0.00218
+TC2    = 1.717e-05)
*
.MODEL RDBODY RES  (
+TC1    = 0.00342
+TC2    = -2.02e-07)
*
*
.MODEL MAIN NMOS  ( 
+LEVEL   = 3
+VTO     = 3.788
+KP      = 30.42
+GAMMA   = 2.5
+PHI     = 0.6
+LAMBDA  = 0.0001178
+RD      = 0
+RS      = 0
+CBD     = 0
+CBS     = 0
+IS      = 1e-14
+PB      = 0.8
+CGSO    = 0
+CGDO    = 0
+CGBO    = 0
+RSH     = 0
+CJ      = 0
+MJ      = 0.5
+CJSW    = 0
+MJSW    = 0.33
+JS      = 1e-14
+TOX     = 1e-07
+NSUB    = 5e+17
+NSS     = 0
+NFS     = 6.121e+11
+TPG     = 1
+XJ      = 0
+LD      = 0
+UO      = 600
+UCRIT   = 10000
+UEXP    = 0
+UTRA    = 0
+VMAX    = 1e+06
+NEFF    = 1
+KF      = 0
+AF      = 1
+FC      = 0.5
+DELTA   = 0
+THETA   = 0
+ETA     = 0
+KAPPA   = 0.2)
*
*--------------------------------------------------------------------------
*
.MODEL DGD D  ( 
+IS      = 1e-15
+RS      = 0
+N       = 1000
+TT      = 0
+CJO     = 4.738e-09
+VJ      = 0.5172
+M       = 1.12
+EG      = 1.11
+XTI     = 3
+KF      = 0
+AF      = 1
+FC      = 0.5
+BV      = 10000
+IBV     = 0.001)
*
*--------------------------------------------------------------------------
*
.MODEL DBODY D  ( 
+IS      = 3.348e-11
+RS      = 0
+N       = 1.059
+TT      = 5.5e-07
+CJO     = 2.711e-09
+VJ      = 1.039
+M       = 0.6409
+EG      = 1.11
+XTI     = 2.479
+KF      = 0
+AF      = 0
+FC      = 0
+BV      = 580
+IBV     = 0.00025)
.ENDS
