.SUBCKT ngd8201n 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Nov  4, 03
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=1.85705 KP=17.4276 LAMBDA=0 CGSO=1.26182e-05
RD 7 9 1e-06
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1e-06 BF=1 NF=1.36215 VAF=78.8584
+IKF=9.04074e+07 ISE=1e-17 NE=4 BR=96.9833
+NR=0.75 VAR=563836 IKR=4032.46 ISC=1e-06
+NC=1 RB=2.10963 IRB=0.0163425 RBM=1e-05
+RE=1e-08 RC=1e-08 XTB=3.23017e-18 XTI=6.96956e-06
+EG=0.5 CJC=9.83508e-10 VJC=0.4 MJC=0.696175
+CJE=1.96702e-08 VJE=0.4 MJE=0.9 TF=5.57281e-08
RDS 7 4 1e8
RER 4 3 0.00990766
RG 6 2 1.89508
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=7.73562e-10 VJ=0.4 M=0.9 FC=0
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 7.73562e-10
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS ngd8201n

